US06610707B1
Sodium Cyclopentylmethanesulfonate
The subtitle compound was prepared by the method of Preparation 61 from 1-(bromomethyl)cyclopentane [Preparation 63] and sodium sulphite. The crude product was purified by recrystallisation from water to afford sodium cyclopentylmethanesulfonate as a white solid.

reactant | 1-(bromomethyl)cyclopentane | BrCC1CCCC1 | C6H11Br
reactant | sodium sulphite | S(=O)([O-])[O-].[Na+].[Na+]
product | sodium cyclopentylmethanesulfonate | C1(CCCC1)CS(=O)(=O)[O-].[Na+] | InChI=1S/C6H12O3S.Na/c7-10(8,9)5-6-3-1-2-4-6;/h6H,1-5H2,(H,7,8,9);/q;+1/p-1
